US08012976B2
4-(8-(4-Fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-9-yl)-N,N-dimethylbenzamide
A mixture of ethyl 3-(4-(dimethylcarbamoyl)phenyl)-2-(4-fluorophenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (400 mg, 0.87 mmol) and hydrazine monohydrate (85%, 10 mL) were dissolved in MeOH (20 mL), and stirred at 35° C. for 2 h. The mixture was concentrated under reduced pressure. The resulting mixture was filtered, the solid was washed with water and methanol to obtain a white solid, and the solid was dried in vacuum at 40° C. to obtain the title compound (100 mg, yield 54%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 2.85 (s, 3H), 2.94 (s, 3H), 4.37-4.40 (d, 1H), 4.80-4.82 (d, 1H), 7.17-7.25 (m, 5H), 7.33-7.36 (m, 2H), 7.39-7.41 (d, 1H), 7.45 (s, 1H), 7.57-7.61 (t, 1H), 12.19 (s, 1H); LC-MS (ESI) m/z: 429 (M+1)+.

reactant | ethyl 3-(4-(dimethylcarbamoyl)phenyl)-2-(4-fluorophenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.87 mmol, 400 mg | CN(C(=O)C1=CC=C(C=C1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C1=CC=C(C=C1)F)C | C27H25FN2O4
reactant | hydrazine monohydrate | 10 mL | O.NN
solvent | MeOH | 20 mL | CO | CH4O
product | 4-(8-(4-Fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-9-yl)-N,N-dimethylbenzamide | 100 mg, yield 54% | FC1=CC=C(C=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CC=C(C(=O)N(C)C)C=C1 | C25H21FN4O2
